US07750010B2
Step A. 2,5-Dimethyl-3-nitroaniline
To a stirred solution of p-xylene (10.4 g, 97.9 mmol) in concentrated sulfuric acid (20 mL), cooled in an ice bath, was added 90% nitric acid (12.4 mL, 264 mmol) dropwise over 50 min. The resulting mixture was heated to 80° C. for 2 h, then poured onto ice and extracted with CH2Cl2 (2×400 mL). The combined organic extracts were washed with saturated aqueous NaHCO3, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was partially purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—90:10 to 60:40. The resulting solid was recrystallized from CH2Cl2 to yield 2,5-dimethyl-1,3-dinitrobenzene as a white solid. 2,5-Dimethyl-1,3-dinitrobenzene (3.68 g, 18.8 mmol) was dissolved in AcOH (35 mL) and iron powder (1.95 g, 34.9 mmol) was added. The mixture was heated to 110° C. for 3 h, then filtered through a pad of Celite, washing with EtOAc and H2O. The filtrate was concentrated in vacuo to remove most of the solvent and the residue was partitioned between saturated aqueous NaHCO3 (200 mL) and EtOAc (200 mL). The organic layer was washed with brine, then dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 60:40, to give the title compound as a yellow solid. MS: m/z=167 (M+1).

reactant | 2,5-Dimethyl-1,3-dinitrobenzene | 18.8 mmol, 3.68 g | CC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H8N2O4
solvent | AcOH | 35 mL | CC(=O)O | C2H4O2
catalyst | iron | 34.9 mmol, 1.95 g | [Fe] | Fe
product | 2,5-Dimethyl-3-nitroaniline | CC1=C(N)C=C(C=C1[N+](=O)[O-])C | C8H10N2O2
